US04927968
1-Amino-2-butoxy-1-cyclobutene-3,4-dione
Preparation C: In a 5-Liter flask equipped with stirrer and nitrogen inlet/outlet tubes was placed 1,2-dihydroxy-1-cyclobutene-3,4-dione (400.0 g, 3.506 moles), 1-butanol (1.2 L) and toluene (800 mL). The mixture was stirred and heated under reflux with a Dean-Stark water trap until water stopped passing over (136 mL water collected, about 5.5 hours). The clear reaction mixture was heated under reflux for a further one hour, then cooled under nitrogen to 0°-5° C. The cooled stirred solution was treated dropwise at such a rate that the reaction remains at or below 10° C. (2.5 hours required) with a solution containing 14M ammonium hydroxide (240 mL, 3.37 moles), 1-butanol (960 mL) and methanol (40 mL). Stirring was continued at ambient temperature for 2 hours, then the mixture was cooled to 0°-5° C. for 1.5 hours and filtered. The product was washed with toluene (800 mL) and dried to give 492.4 g (88.0%) of the title compound; mp=165°-168° C.

reactant | 1,2-dihydroxy-1-cyclobutene-3,4-dione | 3.506 moles, 400.0 g | OC1=C(C(C1=O)=O)O | C4H2O4
reactant | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
reactant | ammonium hydroxide | 3.37 moles, 14M, 240 mL | [OH-].[NH4+]
solvent | methanol | 40 mL | CO | CH4O
solvent | 1-butanol | 960 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | 1-butanol | 1.2 L | C(CCC)O | C4H10O
product | 1-Amino-2-butoxy-1-cyclobutene-3,4-dione | 492.4 g, 88.0% | NC1=C(C(C1=O)=O)OCCCC | C8H11NO3
